US08420823B2
3,3′-{[(5-Isopropoxypyridin-2-yl)imino]dicarbonyl}dibenzenesulfonyl chloride
The entitled compound was produced according to the method of Reference Example 5 but using 2-amino-5-isopropoxypyridine and 3-(chlorosulfonyl)benzoyl chloride as the starting materials.

reactant | 2-amino-5-isopropoxypyridine | NC1=NC=C(C=C1)OC(C)C | C8H12N2O
reactant | 3-(chlorosulfonyl)benzoyl chloride | ClS(=O)(=O)C=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O3S
product | 3,3′-{[(5-Isopropoxypyridin-2-yl)imino]dicarbonyl}dibenzenesulfonyl chloride | C(C)(C)OC=1C=CC(=NC1)N(C(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)C(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C22H18Cl2N2O7S2
